US06555541B1
d) 4-[4-Chloro-3-(2-chloro-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-(3-amino-4-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (500 mg) and N,N-diisopropylethylamine (0.8 ml) in tetrahydrofuran (20 ml) cooled to 0° C. was added 2-chloroacetyl chloride (0.2 ml). After 2 hrs, the reaction was poured into ethyl acetate/water. The organic layer was separated, washed with water, aqueous NaHCO3 and brine, dried (MgSO4) and concentrated. Purification of the residue by silica gel chromatography (eluting ethyl acetate/iso-hexane (1:3 to 1:2) gave the sub-title product (0.5 g).

reactant | 4-(3-amino-4-chloro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)N | C15H22ClN3O2
reactant | N,N-diisopropylethylamine | 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloroacetyl chloride | 0.2 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[4-Chloro-3-(2-chloro-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)NC(CCl)=O | C17H23Cl2N3O3
